US04005118
To 0.25 moles of bromomethylmethyldimethoxysilane is added 0.25 moles of methylbenzylamine, and the mixture is heated to 100° C. for 12 hours. At the end of that time, 300 ml of hexane is added and excess trimethylamine is added. This mixture is allowed to stir for 3 hours, filtered, and the hexane is removed under reduced pressure, leaving benzylmethylaminomethylmethyldimethoxysilane.

reactant | bromomethylmethyldimethoxysilane | 0.25 moles | BrC[Si](OC)(OC)C | C4H11BrO2Si
reactant | methylbenzylamine | 0.25 moles | CNCC1=CC=CC=C1 | C8H11N
reactant | trimethylamine | CN(C)C | C3H9N
solvent | hexane | 300 ml | CCCCCC | C6H14
product | benzylmethylaminomethylmethyldimethoxysilane | C(C1=CC=CC=C1)CNC[Si](OC)(OC)C | C12H21NO2Si
